US07700655B2
(2) N-[3,5-Bis(trifluoromethyl)phenyl]-5-[(1,1-dimethyl)ethyl]-2-hydroxybenzamide (Compound No. 56)
Using 5-[(1,1-dimethyl)ethyl]salicylic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-[(1,1-dimethyl)ethyl]salicylic acid | CC(C)(C)C1=CC=C(C(C(=O)O)=C1)O | C11H14O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-5-[(1,1-dimethyl)ethyl]-2-hydroxybenzamide | Yield: 53.8% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C(C)(C)C)O)=O)(F)F | C19H17F6NO2
